*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:37:54 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "NOR3X2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  NOR3X2 B C A Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET B 5.92765e-16
*|P (B X 0 1.1000 0.8550)
*|I (Mmn1:g Mmn1 g X 0 0.4075 0.3900)
*|I (Mmp1@1:g Mmp1@1 g X 0 0.5125 1.1250)
*|I (Mmp1:g Mmp1 g X 0 1.1425 1.1250)
C1 Mmp1:g VSS 9.27523e-17
C2 Mmp1@1:g VSS 8.12404e-17
C3 Mmn1:g VSS 3.89786e-16
C4 B VSS 2.89866e-17
Rl1 Mmp1@1:g Mmn1:g 82.487366 $W=0.039
Rl2 Mmp1:g Mmn1:g 75.691772 $W=0.039
Rk3 Mmn1:g B 0.091568 $W=0.1
*
*|NET C 3.01321e-16
*|P (C X 0 0.5000 0.8550)
*|I (Mmn2:g Mmn2 g X 0 0.6725 0.3900)
*|I (Mmp2@1:g Mmp2@1 g X 0 0.7775 1.1250)
*|I (Mmp2:g Mmp2 g X 0 0.9825 1.1250)
*|S (C:2 0.8150 0.8300)
C5 Mmp2:g VSS 5.30142e-17
C6 Mmp2@1:g VSS 2.25529e-17
C7 Mmn2:g VSS 1.03409e-16
C8 C:2 VSS 7.23875e-17
C9 C VSS 4.9958e-17
Rl4 C:2 Mmn2:g 60.452785 $W=0.039
Rl5 C:2 Mmp2@1:g 24.232828 $W=0.039
Rl6 Mmp2:g C:2 53.060135 $W=0.039
Rk7 C:2 C 45.186943 $W=0.1
*
*|NET A 6.38936e-16
*|P (A X 0 0.1000 0.6650)
*|I (Mmn0:g Mmn0 g X 0 0.2025 0.3900)
*|I (Mmp0@1:g Mmp0@1 g X 0 0.4075 1.1250)
*|I (Mmp0:g Mmp0 g X 0 1.2475 1.1250)
C10 Mmp0:g VSS 7.91511e-17
C11 Mmp0@1:g VSS 1.00891e-16
C12 Mmn0:g VSS 4.4584e-16
C13 A VSS 1.30546e-17
Rl8 Mmp0@1:g Mmn0:g 176.202850 $W=0.039
Rl9 Mmn0:g Mmp0:g 95.386673 $W=0.039
Rk10 Mmn0:g A 0.026918 $W=0.1
*
*|NET Y 4.32505e-16
*|P (Y X 0 1.5000 0.4750)
*|I (Mmn0:d Mmn0 d X 0 0.3050 0.3900)
*|I (Mmn2:d Mmn2 d X 0 0.7750 0.3900)
*|I (Mmp2@1:d Mmp2@1 d X 0 0.8800 1.1250)
C14 Mmp2@1:d VSS 8.66747e-17
C15 Mmn2:d VSS 9.73291e-17
C16 Mmn0:d VSS 1.46182e-16
C17 Y VSS 1.02319e-16
Rk11 Mmn0:d Y 0.244572 $W=0.09
Rk12 Mmn0:d Mmn2:d 75.000000 $W=0.08
Rk13 Mmp2@1:d Y 62.807148 $W=0.09
*
*|NET 2 0
*|I (Mmp0@1:d Mmp0@1 d X 0 0.4600 1.1250)
*|I (Mmp1@1:d Mmp1@1 d X 0 0.4600 1.1250)
Rmw14 Mmp1@1:d Mmp0@1:d 0.001000 $W=1
*
*|NET 6 0
*|I (Mmp1@1:s Mmp1@1 s X 0 0.6450 1.1250)
*|I (Mmp2@1:s Mmp2@1 s X 0 0.6450 1.1250)
Rmw15 Mmp2@1:s Mmp1@1:s 0.001000 $W=1
*
*|NET 7 3.66078e-18
*|I (Mmp2:s Mmp2 s X 0 1.0625 1.1250)
*|I (Mmp1:d Mmp1 d X 0 1.0625 1.1250)
C18 Mmp2:s VSS 3.66078e-18
Rmw16 Mmp1:d Mmp2:s 0.001000 $W=1
*
*|NET 3 2.41617e-18
*|I (Mmp1:s Mmp1 s X 0 1.1950 1.1250)
*|I (Mmp0:d Mmp0 d X 0 1.1950 1.1250)
C19 Mmp1:s VSS 2.41617e-18
Rmw17 Mmp0:d Mmp1:s 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0511P	PD=0.84U	PS=1.01U	M=2
+ fw=2.6e-07 sa=1.4e-07 sb=1.315e-06 sca=8.65991 scb=0.00681295 scc=0.000165238
Mmn1	Mmn0:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0788P	PD=0.84U	PS=1.32U	M=2
+ fw=2.6e-07 sa=3.45e-07 sb=1.11e-06 sca=8.65991 scb=0.00681295 scc=0.000165238
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0788P	PD=0.84U	PS=1.32U	M=2
+ fw=2.6e-07 sa=6.1e-07 sb=8.45e-07 sca=8.65991 scb=0.00681295 scc=0.000165238
Mmp0@1	Mmp0@1:d	Mmp0@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.0546P	PD=0.9U	PS=1.06U
+ fw=3.9e-07 sa=1.4e-07 sb=9.8e-07 sca=25.9035 scb=0.0222272 scc=0.0023141
Mmp1@1	Mmp1@1:d	Mmp1@1:g	Mmp1@1:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.0858P	PD=0.9U	PS=1.22U
+ fw=3.9e-07 sa=2.45e-07 sb=8.75e-07 sca=24.3732 scb=0.019725 scc=0.00227862
Mmp2@1	Mmp2@1:d	Mmp2@1:g	Mmp2@1:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0858P	PD=1.1U	PS=1.22U
+ fw=3.9e-07 sa=5.1e-07 sb=6.1e-07 sca=23.0721 scb=0.0181341 scc=0.00227242
Mmp2	Mmp2@1:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0624P	AS=0.04485P	PD=1.1U	PS=1.01U
+ fw=3.9e-07 sa=7.15e-07 sb=4.05e-07 sca=23.4984 scb=0.0186248 scc=0.00227326
Mmp1	Mmp1:d	Mmp1:g	Mmp1:s	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.04485P	AS=0.0234P	PD=1.01U	PS=0.9U
+ fw=3.9e-07 sa=8.75e-07 sb=2.45e-07 sca=25.0585 scb=0.0207887 scc=0.00228936
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.0546P	PD=0.9U	PS=1.06U
+ fw=3.9e-07 sa=9.8e-07 sb=1.4e-07 sca=27.2119 scb=0.0245429 scc=0.0023829
.ENDS
.END
