*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:39:47 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "NOR4X2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  NOR4X2 C D A Y B
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET C 5.51777e-16
*|P (C X 0 1.5000 0.6650)
*|I (Mmn2@1:g Mmn2@1 g X 0 0.6725 0.4050)
*|I (Mmp2@1:g Mmp2@1 g X 0 0.6725 1.2100)
*|I (Mmp2:g Mmp2 g X 0 1.3325 1.2100)
C1 Mmp2:g VSS 8.35259e-17
C2 Mmp2@1:g VSS 4.18031e-17
C3 Mmn2@1:g VSS 3.81727e-16
C4 C VSS 4.47206e-17
Rl1 Mmp2@1:g Mmn2@1:g 56.461006 $W=0.039
Rl2 Mmp2:g Mmn2@1:g 114.153313 $W=0.039
Rk3 Mmn2@1:g C 0.119319 $W=0.1
*
*|NET D 3.37211e-16
*|P (D X 0 0.9000 0.6650)
*|I (Mmn3:g Mmn3 g X 0 0.8925 0.4050)
*|I (Mmp3@1:g Mmp3@1 g X 0 0.9675 1.2100)
*|I (Mmp3:g Mmp3 g X 0 1.1725 1.2100)
*|S (D:2 0.9675 0.9175)
*|S (D:8 0.9300 0.6550)
C5 Mmp3:g VSS 5.60939e-17
C6 Mmp3@1:g VSS 2.48955e-17
C7 Mmn3:g VSS 9.01793e-17
C8 D:8 VSS 6.4611e-17
C9 D:2 VSS 2.22867e-17
C10 D VSS 7.9145e-17
Rl4 D:2 Mmn3:g 87.695068 $W=0.039
Rl5 D:2 Mmp3@1:g 35.771992 $W=0.039
Rl6 Mmp3:g D:2 100.425858 $W=0.039
Rk7 D:8 D 0.017703 $W=0.1
Rk8 D:8 Mmn3:g 45.000000 $W=0.1
*
*|NET A 6.8482e-16
*|P (A X 0 1.7000 1.0450)
*|I (Mmp0@1:g Mmp0@1 g X 0 0.3475 1.2100)
*|I (Mmp0:g Mmp0 g X 0 1.5975 1.2100)
C11 Mmp0:g VSS 6.85606e-17
C12 Mmp0@1:g VSS 6.27767e-17
C13 A VSS 5.53482e-16
Rl9 Mmp0@1:g A 49.049957 $W=0.039
Rl10 A Mmp0:g 59.810295 $W=0.039
*
*|NET Y 5.50833e-16
*|P (Y X 0 1.9000 1.2350)
*|I (Mmn0@1:d Mmn0@1 d X 0 0.3425 0.4050)
*|I (Mmp3@1:d Mmp3@1 d X 0 1.0700 1.2100)
C14 Mmp3@1:d VSS 9.80181e-17
C15 Mmn0@1:d VSS 3.23072e-16
C16 Y VSS 1.29743e-16
Rk11 Mmn0@1:d Y 0.693444 $W=0.09
Rk12 Mmp3@1:d Y 62.643185 $W=0.09
*
*|NET B 6.71615e-16
*|P (B X 0 0.5000 0.8550)
*|I (Mmn1:g Mmn1 g X 0 0.4525 0.4050)
*|I (Mmp1@1:g Mmp1@1 g X 0 0.4525 1.2100)
*|I (Mmp1:g Mmp1 g X 0 1.4925 1.2100)
C17 Mmp1:g VSS 8.08271e-17
C18 Mmp1@1:g VSS 7.38537e-17
C19 Mmn1:g VSS 5.16934e-16
Rl13 Mmp1@1:g Mmn1:g 44.922543 $W=0.039
Rl14 Mmn1:g Mmp1:g 29.537926 $W=0.039
Rk15 Mmn1:g B 0.005639 $W=0.09
*
*|NET 3 2.71439e-18
*|I (Mmp0@1:d Mmp0@1 d X 0 0.4000 1.2100)
*|I (Mmp1@1:d Mmp1@1 d X 0 0.4000 1.2100)
C20 Mmp0@1:d VSS 2.71439e-18
Rmw16 Mmp1@1:d Mmp0@1:d 0.001000 $W=1
*
*|NET 2 6.13702e-18
*|I (Mmp1@1:s Mmp1@1 s X 0 0.5625 1.2100)
*|I (Mmp2@1:s Mmp2@1 s X 0 0.5625 1.2100)
C21 Mmp1@1:s VSS 6.13702e-18
Rmw17 Mmp2@1:s Mmp1@1:s 0.001000 $W=1
*
*|NET 8 1.14642e-17
*|I (Mmp2@1:d Mmp2@1 d X 0 0.8200 1.2100)
*|I (Mmp3@1:s Mmp3@1 s X 0 0.8200 1.2100)
C22 Mmp2@1:d VSS 1.14642e-17
Rmw18 Mmp3@1:s Mmp2@1:d 0.001000 $W=1
*
*|NET 5 6.26401e-18
*|I (Mmp3:s Mmp3 s X 0 1.2525 1.2100)
*|I (Mmp2:s Mmp2 s X 0 1.2525 1.2100)
C23 Mmp3:s VSS 6.26401e-18
Rmw19 Mmp2:s Mmp3:s 0.001000 $W=1
*
*|NET 6 5.88736e-18
*|I (Mmp2:d Mmp2 d X 0 1.4125 1.2100)
*|I (Mmp1:d Mmp1 d X 0 1.4125 1.2100)
C24 Mmp2:d VSS 5.88736e-18
Rmw20 Mmp1:d Mmp2:d 0.001000 $W=1
*
*|NET 4 3.24579e-18
*|I (Mmp1:s Mmp1 s X 0 1.5450 1.2100)
*|I (Mmp0:d Mmp0 d X 0 1.5450 1.2100)
C25 Mmp1:s VSS 3.24579e-18
Rmw21 Mmp0:d Mmp1:s 0.001000 $W=1
*
*Instance Section
*
Mmn0@1	Mmn0@1:d	A	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0455P	AS=0.03835P	PD=0.87U	PS=0.815U	M=2
+ fw=2.6e-07 sa=1.4e-07 sb=1.68e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn1	Mmn0@1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0455P	AS=0.04355P	PD=0.87U	PS=0.855U	M=2
+ fw=2.6e-07 sa=3.6e-07 sb=1.46e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn2@1	Mmn0@1:d	Mmn2@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.04745P	AS=0.04355P	PD=0.885U	PS=0.855U	M=2
+ fw=2.6e-07 sa=5.8e-07 sb=1.24e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn3	Mmn0@1:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.04745P	AS=0.0416P	PD=0.885U	PS=0.84U	M=2
+ fw=2.6e-07 sa=8e-07 sb=1.02e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmp0@1	Mmp0@1:d	Mmp0@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.0546P	PD=0.9U	PS=1.06U
+ fw=3.9e-07 sa=1.4e-07 sb=1.42e-06 sca=18.6506 scb=0.0190998 scc=0.000768188
Mmp1@1	Mmp1@1:d	Mmp1@1:g	Mmp1@1:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.06825P	PD=0.9U	PS=1.13U
+ fw=3.9e-07 sa=2.45e-07 sb=1.315e-06 sca=16.4248 scb=0.0152088 scc=0.000666128
Mmp2@1	Mmp2@1:d	Mmp2@1:g	Mmp2@1:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0975P	AS=0.06825P	PD=1.28U	PS=1.13U
+ fw=3.9e-07 sa=4.65e-07 sb=1.095e-06 sca=14.4756 scb=0.0126313 scc=0.000647839
Mmp3@1	Mmp3@1:d	Mmp3@1:g	Mmp3@1:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0975P	PD=1.1U	PS=1.28U
+ fw=3.9e-07 sa=7.6e-07 sb=8e-07 sca=13.5671 scb=0.012183 scc=0.000647513
Mmp3	Mmp3@1:d	Mmp3:g	Mmp3:s	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0624P	AS=0.04485P	PD=1.1U	PS=1.01U
+ fw=3.9e-07 sa=9.65e-07 sb=5.95e-07 sca=13.8806 scb=0.0122706 scc=0.000647529
Mmp2	Mmp2:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.04485P	AS=0.04485P	PD=1.01U	PS=1.01U
+ fw=3.9e-07 sa=1.125e-06 sb=4.35e-07 sca=14.5014 scb=0.0126527 scc=0.000647871
Mmp1	Mmp1:d	Mmp1:g	Mmp1:s	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.04485P	AS=0.0234P	PD=1.01U	PS=0.9U
+ fw=3.9e-07 sa=1.285e-06 sb=2.75e-07 sca=15.7201 scb=0.0141032 scc=0.000654378
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.0933P	PD=0.9U	PS=1.57U
+ fw=3.9e-07 sa=1.39e-06 sb=1.7e-07 sca=17.2962 scb=0.0167016 scc=0.000693147
.ENDS
.END
