*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:40:45 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "OA21X4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  OA21X4 B0 A1 A0 Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET B0 2.2756e-16
*|P (B0 X 0 0.9000 0.8550)
*|I (Mmn2:g Mmn2 g X 0 0.7225 0.3600)
*|I (Mmp2:g Mmp2 g X 0 0.7225 1.1550)
*|S (B0:2 0.7500 0.6700)
C1 Mmp2:g VSS 4.55998e-17
C2 Mmn2:g VSS 3.85811e-17
C3 B0:2 VSS 6.84289e-17
C4 B0 VSS 7.49505e-17
Rl1 B0:2 Mmn2:g 56.461002 $W=0.039
Rl2 Mmp2:g B0:2 98.768692 $W=0.039
Rk3 B0:2 B0 45.164005 $W=0.1
*
*|NET A1 2.97087e-16
*|P (A1 X 0 0.5000 0.8550)
*|I (Mmn1:g Mmn1 g X 0 0.5175 0.3600)
*|I (Mmp1:g Mmp1 g X 0 0.5175 1.1550)
*|S (A1:2 0.5450 0.6600)
C5 Mmp1:g VSS 9.12662e-17
C6 Mmn1:g VSS 4.42474e-17
C7 A1:2 VSS 1.28718e-16
C8 A1 VSS 3.2855e-17
Rl4 A1:2 Mmn1:g 52.614853 $W=0.039
Rl5 Mmp1:g A1:2 102.614853 $W=0.039
Rk6 A1 A1:2 45.063339 $W=0.183
*
*|NET A0 2.36943e-16
*|P (A0 X 0 0.1000 0.8550)
*|I (Mmn0:g Mmn0 g X 0 0.3125 0.3600)
*|I (Mmp0:g Mmp0 g X 0 0.4125 1.1550)
*|S (A0:2 0.3125 0.6900)
*|S (A0:3 0.1100 0.6900)
C9 Mmp0:g VSS 7.84394e-17
C10 Mmn0:g VSS 3.82544e-17
C11 A0:2 VSS 5.05382e-17
C12 A0:3 VSS 3.35949e-17
C13 A0 VSS 3.61158e-17
Rl7 A0:2 A0:3 67.773247 $W=0.114
Rl8 A0:2 Mmn0:g 60.170471 $W=0.039
Rl9 Mmp0:g A0:2 101.317253 $W=0.039
Rk10 A0 A0:3 0.098700 $W=0.1
*
*|NET Y 3.6208e-16
*|P (Y X 0 1.9000 0.8550)
*|I (Mmn3:d Mmn3 d X 0 1.3300 0.5300)
*|I (Mmp3:d Mmp3 d X 0 1.2300 1.1550)
C14 Mmp3:d VSS 2.05788e-16
C15 Mmn3:d VSS 1.02691e-16
C16 Y VSS 5.36012e-17
Rk11 Mmn3:d Y 0.175874 $W=0.09
Rk12 Mmp3:d Y 0.156820 $W=0.1
*
*|NET net107 1.09191e-16
*|I (Mmn0:d Mmn0 d X 0 0.2200 0.3600)
*|I (Mmn1:d Mmn1 d X 0 0.6200 0.3600)
C17 Mmn1:d VSS 6.27992e-17
C18 Mmn0:d VSS 4.63916e-17
Rk13 Mmn1:d Mmn0:d 150.238144 $W=0.1
*
*|NET net95 5.5389e-16
*|I (Mmn2:d Mmn2 d X 0 0.8650 0.4300)
*|I (Mmn3:g Mmn3 g X 0 1.2275 0.5300)
*|I (Mmp1:d Mmp1 d X 0 0.6200 1.1550)
*|S (net95:16 1.0700 0.8100)
C19 Mmp1:d VSS 8.99313e-17
C20 Mmn3:g VSS 3.06705e-16
C21 Mmn2:d VSS 5.87802e-17
C22 net95:16 VSS 9.8473e-17
Rk14 net95:16 Mmn2:d 75.385330 $W=0.1
Rk15 net95:16 Mmn3:g 0.193905 $W=0.08
Rk16 net95:16 Mmp1:d 31.600435 $W=0.08
*
*|NET net98 0
*|I (Mmp0:d Mmp0 d X 0 0.4650 1.1550)
*|I (Mmp1:s Mmp1 s X 0 0.4650 1.1550)
Rmw17 Mmp1:s Mmp0:d 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0416P	PD=0.8U	PS=0.84U
+ fw=2.6e-07 sa=1.4e-07 sb=5.28462e-07 sca=7.84363 scb=0.00546499 scc=9.84911e-05
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0416P	PD=0.84U	PS=0.84U
+ fw=2.6e-07 sa=3.45e-07 sb=3.23462e-07 sca=7.84363 scb=0.00546499 scc=9.84911e-05
Mmn2	Mmn2:d	Mmn2:g	Mmn1:d	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0308P	AS=0.0416P	PD=0.8U	PS=0.84U
+ fw=2.6e-07 sa=5.5e-07 sb=1.18462e-07 sca=7.84363 scb=0.00546499 scc=9.84911e-05
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0425P	PD=0.84U	PS=0.995U	M=4
+ fw=2.6e-07 sa=1e-07 sb=7.55e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.0546P	PD=0.9U	PS=1.06U
+ fw=3.9e-07 sa=1.4e-07 sb=1.47e-06 sca=21.318 scb=0.0198005 scc=0.0015222
Mmp1	Mmp1:d	Mmp1:g	Mmp1:s	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0234P	PD=1.1U	PS=0.9U
+ fw=3.9e-07 sa=2.45e-07 sb=1.365e-06 sca=19.8317 scb=0.0173912 scc=0.00148974
Mmp2	Mmp1:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.1404P	PD=1.1U	PS=1.5U
+ fw=3.9e-07 sa=4.5e-07 sb=1.16e-06 sca=18.4632 scb=0.0159033 scc=0.00148415
Mmp3	Mmp3:d	Mmn3:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.07995P	PD=1.1U	PS=1.19U	M=4
+ fw=3.9e-07 sa=8.55e-07 sb=7.55e-07 sca=17.7856 scb=0.015626 scc=0.00148402
.ENDS
.END
