*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:44:37 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "OAI2BB1X2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  OAI2BB1X2 A0N B0 Y A1N
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A0N 2.14325e-16
*|P (A0N X 0 1.1000 0.6650)
*|I (Mmn0:g Mmn0 g X 0 1.1725 0.5775)
*|I (Mmp0:g Mmp0 g X 0 1.1725 1.1975)
*|S (A0N:2 1.1450 0.8000)
*|S (A0N:4 1.1450 0.8000)
C1 Mmp0:g VSS 4.96636e-17
C2 Mmn0:g VSS 2.85989e-17
C3 A0N:2 VSS 1.09405e-16
C4 A0N VSS 2.66574e-17
Rl1 A0N:2 Mmn0:g 44.922543 $W=0.039
Rl2 Mmp0:g A0N:2 98.768692 $W=0.039
Rk3 A0N:4 A0N 0.074809 $W=0.1
Rk4 A0N:2 A0N:4 45.000000 $W=0.155
*
*|NET B0 4.73505e-16
*|P (B0 X 0 0.5000 0.8550)
*|I (Mmn2@1:g Mmn2@1 g X 0 0.4175 0.5200)
*|I (Mmn2:g Mmn2 g X 0 0.8325 0.5200)
*|I (Mmp2:g Mmp2 g X 0 0.3175 1.2850)
C5 Mmp2:g VSS 3.40189e-16
C6 Mmn2:g VSS 6.18272e-17
C7 Mmn2@1:g VSS 5.43613e-17
C8 B0 VSS 1.71276e-17
Rl5 Mmn2@1:g Mmp2:g 40.179676 $W=0.039
Rl6 Mmp2:g Mmn2:g 40.179672 $W=0.039
Rk7 Mmp2:g B0 0.005177 $W=0.1
*
*|NET Y 3.17085e-16
*|P (Y X 0 0.1000 1.0450)
*|I (Mmn3@1:d Mmn3@1 d X 0 0.6250 0.5200)
*|I (Mmp2:d Mmp2 d X 0 0.4200 1.2850)
*|S (Y:3 0.2000 1.0750)
C9 Mmp2:d VSS 1.44883e-16
C10 Mmn3@1:d VSS 8.66999e-17
C11 Y:3 VSS 6.60657e-17
C12 Y VSS 1.94359e-17
Rk8 Y:3 Y 0.035171 $W=0.19
Rk9 Y:3 Mmn3@1:d 75.550186 $W=0.08
Rk10 Y:3 Mmp2:d 0.179815 $W=0.1
*
*|NET A1N 1.84819e-16
*|P (A1N X 0 1.7000 1.2350)
*|I (Mmn1:g Mmn1 g X 0 1.4325 0.5775)
*|I (Mmp1:g Mmp1 g X 0 1.4325 1.1975)
*|S (A1N:1 1.6650 0.8850)
*|S (A1N:2 1.4325 0.8850)
C13 Mmp1:g VSS 3.00066e-17
C14 Mmn1:g VSS 2.94001e-17
C15 A1N:2 VSS 3.1025e-17
C16 A1N:1 VSS 6.07117e-17
C17 A1N VSS 3.36761e-17
Rl11 A1N:1 A1N:2 74.053261 $W=0.094
Rl12 A1N:2 Mmn1:g 86.252586 $W=0.039
Rl13 A1N:2 Mmp1:g 74.714127 $W=0.039
Rk14 A1N A1N:1 0.207683 $W=0.1
*
*|NET 8 1.49756e-18
*|I (Mmn2@1:d Mmn2@1 d X 0 0.4700 0.5200)
*|I (Mmn3@1:s Mmn3@1 s X 0 0.4700 0.5200)
C18 Mmn2@1:d VSS 1.49756e-18
Rmw15 Mmn3@1:s Mmn2@1:d 0.001000 $W=1
*
*|NET n0 5.05332e-16
*|I (Mmn3@1:g Mmn3@1 g X 0 0.5225 0.5200)
*|I (Mmn3:g Mmn3 g X 0 0.7275 0.5200)
*|I (Mmn1:d Mmn1 d X 0 1.5250 0.5775)
*|I (Mmp3:g Mmp3 g X 0 0.5225 1.2850)
*|I (Mmp0:d Mmp0 d X 0 1.3025 1.1975)
*|S (n0:3 0.7000 0.8875)
*|S (n0:8 1.3300 0.9800)
C19 Mmp0:d VSS 1.98608e-17
C20 Mmp3:g VSS 1.76018e-16
C21 Mmn1:d VSS 4.43448e-17
C22 Mmn3:g VSS 5.57581e-17
C23 Mmn3@1:g VSS 6.38255e-17
C24 n0:8 VSS 1.01499e-16
C25 n0:3 VSS 4.40262e-17
Rl16 n0:3 Mmn3@1:g 136.022995 $W=0.039
Rl17 n0:3 Mmn3:g 86.601852 $W=0.039
Rl18 Mmp3:g n0:3 10.292520 $W=0.094
Rk19 n0:8 Mmn1:d 75.387375 $W=0.09
Rk20 n0:8 Mmp3:g 45.471569 $W=0.08
Rk21 n0:8 Mmp0:d 62.096291 $W=0.1
*
*|NET 9 0
*|I (Mmn3:s Mmn3 s X 0 0.7800 0.5200)
*|I (Mmn2:d Mmn2 d X 0 0.7800 0.5200)
Rmw22 Mmn2:d Mmn3:s 0.001000 $W=1
*
*|NET n1 0
*|I (Mmn0:d Mmn0 d X 0 1.3025 0.5775)
*|I (Mmn1:s Mmn1 s X 0 1.3025 0.5775)
Rmw23 Mmn1:s Mmn0:d 0.001000 $W=1
*
*Instance Section
*
Mmn2@1	Mmn2@1:d	Mmn2@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0364P	PD=0.64U	PS=0.8U
+ fw=2.6e-07 sa=1.4e-07 sb=8.89615e-07 sca=16.3874 scb=0.0162972 scc=0.00139495
Mmn3@1	Mmn3@1:d	Mmn3@1:g	Mmn3@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=2.45e-07 sb=7.84615e-07 sca=16.3874 scb=0.0162972 scc=0.00139495
Mmn3	Mmn3@1:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=4.5e-07 sb=5.79615e-07 sca=16.3874 scb=0.0162972 scc=0.00139495
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.05887P	PD=0.64U	PS=1.11U
+ fw=2.6e-07 sa=5.55e-07 sb=4.74615e-07 sca=16.3874 scb=0.0162972 scc=0.00139495
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03117P	AS=0.05887P	PD=0.72U	PS=1.11U
+ fw=1.45e-07 sa=8.95e-07 sb=4e-07 sca=21.4614 scb=0.0218523 scc=0.00230065
Mmn1	Mmn1:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.03117P	PD=0.57U	PS=0.72U
+ fw=1.45e-07 sa=1.155e-06 sb=1.4e-07 sca=21.4614 scb=0.0218523 scc=0.00230065
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04622P	AS=0.07532P	PD=0.86U	PS=1.61U
+ fw=2.15e-07 sa=9.95e-07 sb=3.6e-07 sca=13.2854 scb=0.0114741 scc=0.000332863
Mmp1	Mmp0:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04622P	AS=0.04615P	PD=0.86U	PS=1.42U
+ fw=2.15e-07 sa=1.255e-06 sb=1e-07 sca=16.6544 scb=0.0167336 scc=0.000417003
Mmp2	Mmp2:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.06496P	PD=1.1U	PS=1.335U	M=2
+ fw=3.9e-07 sa=1.4e-07 sb=9.90641e-07 sca=17.4719 scb=0.0181939 scc=0.00043542
Mmp3	Mmp2:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=2
+ fw=3.9e-07 sa=3.45e-07 sb=7.85641e-07 sca=13.3812 scb=0.0112303 scc=0.000237076
.ENDS
.END
